US08278341B2
A mixture of 6-methoxy-5,7-dihydroindolo[2,3-b]carbazole-2,10-dicarboxylic acid (1 g, 2.67 mmol) and 2-(diethylamino)ethyl N,N′-dicyclohexylcarbamimidate (2.6 g, 8.0 mmol) in DMF (10 mL) was stirred at room temperature for 48 h. [2-(diethylamino)ethyl N,N′-dicyclohexylcarbamimidate was prepared from DCC (1 equivelent), N,N′-diethylethanolamine (1 equivelent) and CuCl (cat.) at 135° C. under microwave for 2 h]. The reaction mixture was diluted with 50% EtOAc/Hexane and washed with water. The combined organic layer was dried (MgSO4), concentrated, purified by chromatography to provide Bis(2-(diethylamino)ethyl) 6-methoxy-5,7-dihydroindolo[2,3-b]carbazole-2,10-dicarboxylate (85-90%). 1H NMR (300 MHz, CD3OD) δ ppm 8.83 (d, J=1.4 Hz, 2H), 8.59 (s, 1H), 8.05 (dd, J=1.4, 8.5 Hz, 2H), 7.49 (d, J=8.5 Hz, 2H), 4.43 (q, J=7.3 Hz, 4H), 4.32 (m, 2H), 3.18 (m, 2H), 1.47 (t, J=7.3 Hz, 6H).

reactant | 6-methoxy-5,7-dihydroindolo[2,3-b]carbazole-2,10-dicarboxylic acid | 2.67 mmol, 1 g | COC1=C2C(=CC=3C4=CC(=CC=C4NC13)C(=O)O)C=1C=C(C=CC1N2)C(=O)O | C21H14N2O5
reactant | 2-(diethylamino)ethyl N,N′-dicyclohexylcarbamimidate | 8.0 mmol, 2.6 g | C1(CCCCC1)NC(OCCN(CC)CC)=NC1CCCCC1 | C19H37N3O
reactant | DCC | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | EtOAc Hexane | CCOC(=O)C.CCCCCC
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
catalyst | CuCl | Cl[Cu]
product | Bis(2-(diethylamino)ethyl) 6-methoxy-5,7-dihydroindolo[2,3-b]carbazole-2,10-dicarboxylate | 85-90% | COC1=C2C(=CC=3C4=CC(=CC=C4NC13)C(=O)OCCN(CC)CC)C=1C=C(C=CC1N2)C(=O)OCCN(CC)CC | C33H40N4O5
